US05552558
C. Methyl 3-(2-Isopropyl-4-thiazolyl)propanoate.
A solution of 225 mg (1 mmol) of (E)-ethyl 3-(2-isopropyl-4-thiazolyl)-propenoate in 10 ml of freshly distilled (from calcium hydride) methanol and 1 ml of dry THF was treated with-49 mg (2 mmol) of magnesium turnings. The mixture was stirred for 20 min, during which the magnesium was consumed. The resulting solution was poured over cold aqueous HCl, basified to pH 8 with NaHCO3, extracted with ethyl acetate, dried over Na2SO4, and concentrated. Silica gel chromatography using 10% ethyl acetate in hexane provided a mixture of the desired compound and methyl 3-(2-isopropyl-4-thiazolinyl)propanoate.

reactant | (E)-ethyl 3-(2-isopropyl-4-thiazolyl)-propenoate | 1 mmol, 225 mg | C(C)(C)C=1SC=C(N1)/C=C/C(=O)OCC | C11H15NO2S
reactant | methanol | CO | CH4O
reactant | magnesium | 2 mmol, 49 mg | [Mg] | Mg
reactant | methyl 3-(2-isopropyl-4-thiazolinyl)propanoate | C(C)(C)C1(SC=CN1)CCC(=O)OC | C10H17NO2S
solvent | THF | 1 ml | C1CCOC1 | C4H8O
product | Methyl 3-(2-Isopropyl-4-thiazolyl)propanoate | C(C)(C)C=1SC=C(N1)CCC(=O)OC | C10H15NO2S
